US09107916B2
A. [4-chloro-2-(1-phenylethoxy)phenyl]methanol
Charged 5-chloro-2-(hydroxymethyl)phenol (787 mg, 4.96 mmol), (bromoethyl)benzene (1.01 g, 5.46 mmol), K2CO3 (1.37 g, 9.93 mmol) and DMF (8 mL) to a flask, heated to 100° C. overnight. Poured into ice water, and extracted with ethyl acetate twice, and washed the organic phase with water twice, brine and dried with anhydrous Na2SO4. Solvent was then removed and purified by flash column chromatograph to give 1.0 g of the title compound (77%).

reactant | 5-chloro-2-(hydroxymethyl)phenol | 4.96 mmol, 787 mg | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | (bromoethyl)benzene | 5.46 mmol, 1.01 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 9.93 mmol, 1.37 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | [4-chloro-2-(1-phenylethoxy)phenyl]methanol | 1.0 g, 77% | ClC1=CC(=C(C=C1)CO)OC(C)C1=CC=CC=C1 | C15H15ClO2
